US06297253B1
Compound No. 14 (CNI-H1494): 4-(3-acetylphenyl)amino-2-amino-6-methylpyrimidine, Compound No. 15, (0.968 g) was suspended in acetone (5 mL) containing methyl iodide (2 mL) was heated at reflux for 48 hr. Filtration after cooling gave 0.657 g of 4-(3-acetylphenyl)amino-2-amino-1,6-dimethylpyrimidinium iodide as a white powder, mp 238-40° C.

reactant | CNI-H1494 | CC1=CC(=NC(=[N+]1C)N)NC2=CC=CC(=C2)C(=O)C
reactant | 4-(3-acetylphenyl)amino-2-amino-6-methylpyrimidine | C(C)(=O)C=1C=C(C=CC1)NC1=NC(=NC(=C1)C)N | C13H14N4O
reactant | methyl iodide | 2 mL | CI | CH3I
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 4-(3-acetylphenyl)amino-2-amino-1,6-dimethylpyrimidinium iodide | 0.657 g | [I-].C(C)(=O)C=1C=C(C=CC1)NC1=NC(=[N+](C(=C1)C)C)N | InChI=1S/C14H16N4O.HI/c1-9-7-13(17-14(15)18(9)3)16-12-6-4-5-11(8-12)10(2)19;/h4-8H,1-3H3,(H2,15,16,17);1H
